US07196087B2
To a solution of 4-[2-cyano-3-(2-fluorobenzoylamino)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester (1.282 g, 3.02 mmol) was added BH3.DMS (10M in THF). Aftering heating at 70° C. in an open flask for 20 minutes to remove the dimethyl sulfide, the reaction was then heated under reflux for 4 hours. To the cooled solution was added MeOH slowly and the resulting mixture was stirred at room temperature for an hour. The reaction mixture was partitioned between water and ethyl acetate. The organic layer was washed with water and brine. After drying over MgSO4, the organic fraction was concentrated in vacuo and resulting brown residue was purified by flash chromatography to give 4-[2-aminomethyl-3-(2-fluoro-benzylamino)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester as a yellow solid (858 mg, 67%). MS (M+H)+:415.3

reactant | 4-[2-cyano-3-(2-fluorobenzoylamino)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester | 3.02 mmol, 1.282 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C(=CC=C1)NC(C1=C(C=CC=C1)F)=O)C#N | C23H25FN4O3
reactant | DMS | 10M | CSC | C2H6S
product | 4-[2-aminomethyl-3-(2-fluoro-benzylamino)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester | 858 mg, 67% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C(=CC=C1)NCC1=C(C=CC=C1)F)CN | C23H31FN4O2
